US07314888B1
In 38 ml of acetonitrile is dissolved 4.1 g of 5-formyl-2-isobutoxyphenyl acetate. To the solution thus obtained, 6.8 g of sodium dihydrogenphosphate dissolved in 20 ml of water and 3.6 ml of 30% aqueous hydrogen peroxide are successively added at ambient temperature, and then 3.6 g of sodium chlorite dissolved in 18 ml of water is dropwise added at 5-10° C. The mixture thus obtained is stirred at ambient temperature for 2 hours. Chloroform and water are added to the reaction mixture, the organic layer is separated, the organic layer thus obtained is washed successively with 5% aqueous solution of sodium thiosulfate and saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. Thus, 4.0 g of 3-(acetyloxy)-4-isobutoxybenzoic acid is obtained as a light yellow solid product.

reactant | 5-formyl-2-isobutoxyphenyl acetate | 4.1 g | C(C)(=O)OC1=C(C=CC(=C1)C=O)OCC(C)C | C13H16O4
reactant | sodium dihydrogenphosphate | 6.8 g | P(=O)(O)(O)[O-].[Na+]
reactant | hydrogen peroxide | 3.6 ml | OO | H2O2
reactant | sodium chlorite | 3.6 g | Cl(=O)[O-].[Na+]
solvent | acetonitrile | 38 ml | C(C)#N | C2H3N
solvent | water | 20 ml | O | H2O
solvent | water | 18 ml | O | H2O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(acetyloxy)-4-isobutoxybenzoic acid | 4.0 g | C(C)(=O)OC=1C=C(C(=O)O)C=CC1OCC(C)C | C13H16O5
